US09353075B2
Step 5. Preparation of 5-phenylpentyl-N-[(2S*,3R*)-2-ethyl-4-oxo-oxetan-3-yl]-carbamate
Under nitrogen atmosphere, to a stirred mixture of (2S*,3R*)-3-hydroxy-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid (0.07 g, 0.22 mmol) in dry CH2Cl2 (10 mL), at 0° C., Et3N (0.091 mL, 0.65 mmol) and subsequently TBTU (0.083 g, 0.26 mmol) were added. The mixture was left stirring at 0° C. for 1 h and at rt for 15 h. The organics were then removed under reduced pressure, and the resulting crude product purified by column chromatography, using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 90:10 to 70:30) to afford the pure title compound (0.043 g, 65%), as a white solid. MS (ESI) m/z: 323 [M−NH4]+; (ESI) m/z: 304 [M−H]−. 1H NMR (DMSO-d6) δ 0.89 (t, J=7.43 Hz, 3H), 1.27-1.41 (m, 2H), 1.45-1.64 (m, 4H), 1.64-1.95 (m, 2H), 2.58 (t, J=7.66 Hz, 2H), 4.01 (t, J=6.49 Hz, 2H), 4.60 (dt, J=6.08, 8.01 Hz, 1H), 5.45 (dd, J=6.02, 9.42 Hz, 1H), 7.05-7.38 (m, 5H), 8.23 (d, J=9.41 Hz, 1H).

reactant | (2S*,3R*)-3-hydroxy-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid | 0.22 mmol, 0.07 g | O[C@@H]([C@@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)CC | C17H25NO5
reactant | Et3N | 0.65 mmol, 0.091 mL | CCN(CC)CC | C6H15N
reactant | TBTU | 0.26 mmol, 0.083 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-phenylpentyl-N-[(2S*,3R*)-2-ethyl-4-oxo-oxetan-3-yl]-carbamate | 0.043 g, 65% | C1(=CC=CC=C1)CCCCCOC(N[C@@H]1[C@@H](OC1=O)CC)=O | C17H23NO4
